US05516774
10,11-Dihydro-10-(4-nitrobenzoyl)-[3-(trifluoroacetyl)]-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 0.50 g of 10,11-dihydro-10(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 10 ml of methylene chloride is cooled in an ice bath and 2.0 g of trifluoroacetic anhydride added. The bath is removed and the reactants stirred for 18 hrs, partitioned with saturated sodium bicarbonate and the separated organic layer dried with Na2SO4 then passed through a short pad of hydrous magnesium silicate. The filtrate is heated at the boil while hexane is added to give 0.40 g of the desired product, m.p. 169°-170° C.

reactant | 10,11-dihydro-10(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.50 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H15N3O3
reactant | trifluoroacetic anhydride | 2.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-10-(4-nitrobenzoyl)-[3-(trifluoroacetyl)]-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.40 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C(=CC3)C(C(F)(F)F)=O)C=C1 | C21H14F3N3O4
